### ISSUE TITLE
`mconstructor` / `mleft` is incompatible with `mhave`'s state

### ISSUE THREAD

**Issue by mirefek** [leanprover/lean4#13691]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`mhave` creates a proof state that `mleft` / `mright` / `mconstructor` fail to operate on. This is because there are metadata in the term, whereas `mleft` and similar tactics attempt to directly match `Lean.Expr`. Simple fix here could be adding `Lean.Expr.consumeMData` before, or even `whnf`.

### Steps to Reproduce

```lean4
import Std.Tactic.Do
open Std.Do

example (P Q : SPred [Int]) : P ⊢ₛ P ∧ Q := by
  mintro hp
  mhave h : spred(P ∧ Q) := by
    mconstructor -- error: target is not SPred.and
    sorry
  mconstructor -- here it works under identically looking context
  · sorry
  · sorry

example (P Q : SPred [Int]) : P ⊢ₛ P ∨ Q := by
  mintro hp
  mhave h : spred(P ∨ Q) := by
    mleft -- error: target is not SPred.or
    sorry
  mleft -- here it works under identically looking context
  sorry
```

**Expected behavior:** `mconstructor` / `mleft` inside the `mhave` block do what they do outside.

**Actual behavior:** the tactics inside the `mhave` block error out on "target is not SPred.and / target is not SPred.or"

### Versions

Lean 4.31.0-nightly-2026-05-07
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by sgraf812** [comment]
Fixed in #13812
